US07737166B2
2-Cyclopropyl-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-6-hydroxymethyl-5-methyl-1,3-benzoxazole-4-carbonitrile (#89)
2-Cyclopropyl-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-6-formyl-5-methyl-1,3-benzoxazole-4-carbonitrile (free form of #88) (120 mg, 0.35 mmol) was dissolved in methanol (2.4 ml) and dichloromethane (0.8 ml), then at 0° C., sodium borohydride (18 mg, 0.43 mmol) was added, followed by stirring at the same temperature for 1 hour. Next, at the same temperature, sodium borohydride (9 mg, 0.22 mmol) was further added, followed by stirring at the same temperature for 1 hour. An aqueous saturated sodium hydrogencarbonate solution was added, followed by farmer stirring for 5 minutes. The solution was extracted three times with chloroform. The organic layers were combined, washed with saturated brine, and dried over anhydrous sodium sulfate. The insoluble matter was separated by filtration, the solvent was evaporated away, and the resulting residue was purified by preparative TLC (eluent, chloroform:methanol=9:1) to obtain the entitled compound (91 mg) as a roughly-purified product. This was washed with isopropyl ether to obtain the entitled compound (85 mg, 70%) as a white solid.

reactant | 2-Cyclopropyl-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-6-formyl-5-methyl-1,3-benzoxazole-4-carbonitrile | 0.35 mmol, 120 mg | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2N2C[C@H](CC2)N(C)C)C=O)C)C#N | C19H22N4O2
reactant | sodium borohydride | 0.43 mmol, 18 mg | [BH4-].[Na+]
reactant | sodium borohydride | 0.22 mmol, 9 mg | [BH4-].[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 2.4 ml | CO | CH4O
solvent | dichloromethane | 0.8 ml | ClCCl | CH2Cl2
product | 2-Cyclopropyl-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-6-hydroxymethyl-5-methyl-1,3-benzoxazole-4-carbonitrile | 91 mg | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2N2C[C@H](CC2)N(C)C)CO)C)C#N | C19H24N4O2
